US05633378
20,20'-(2-Acetoxy-1,3-propanediyl)bis[3-acetyl-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosan-21-one]
39.2 g of 20,20'-(2-hydroxy-1,3-propanediyl)bis[2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosan-21-one] were dissolved in 400 cm3 of acetic anhydride and heated so strongly that about 200 cm3 of liquid distilled off over the course of 6 hours. The batch was then evaporated to dryness in vacuo, the residue was taken up in toluene and washed by shaking with dilute hydrogencarbonate solution and water, and the organic phase was dried. After evaporation, the target compound crystallized as a colorless solid during stirring with hexane. 36.9 g having a melting point of 122° C. were obtained.

reactant | 20,20'-(2-hydroxy-1,3-propanediyl)bis[2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosan-21-one] | 39.2 g | OC(CN1C2(OC3(CC(NC(C3)(C)C)(C)C)C1=O)CCCCCCCCCCC2)CN2C1(OC3(CC(NC(C3)(C)C)(C)C)C2=O)CCCCCCCCCCC1 | C47H84N4O5
solvent | acetic anhydride | 400 cm3 | C(C)(=O)OC(C)=O | C4H6O3
product | 20,20'-(2-Acetoxy-1,3-propanediyl)bis[3-acetyl-2,2,4,4-tetramethyl-7-oxa-3,20-diazadispiro[5.1.11.2]heneicosan-21-one] | C(C)(=O)OC(CN1C2(OC3(CC(N(C(C3)(C)C)C(C)=O)(C)C)C1=O)CCCCCCCCCCC2)CN2C1(OC3(CC(N(C(C3)(C)C)C(C)=O)(C)C)C2=O)CCCCCCCCCCC1 | C53H90N4O8
